US04925865
A solution of 38.2 g (0.12 mol) of 2-(2,4-dichlorophenylethenyl)-2-(1-propylmercaptocyclopropyl) oxirane in 30 ml of dimethylformamide is added dropwise under a nitrogen atmosphere and with stirring at 80° C. to a mixture of 24 g (0.35 mol) of 1,2,4-triazole, 2.7 g (0.02 mol) of potassium tert.-butoxide and 50 ml of dimethylformamide. The mixture is stirred at 80° C. for 6 hours, then the solvent is removed under reduced pressure, and the residue is taken up in ethyl acetate/toluene, washed with water, dried over sodium sulphate and concentrated under reduced pressure. The residue which remains is chromatographed on silica gel using chloroform as the eluant. In this manner, 12.1 g (26% of theory) of trans-4-(2,4-dichlorophenyl)-2-(1-propylmercaptocyclopropyl)1-(1,2,4-triazol-1-yl)-but-3-en-2-ol are obtained in the form of an oily product.

reactant | 2-(2,4-dichlorophenylethenyl)-2-(1-propylmercaptocyclopropyl) oxirane | 0.12 mol, 38.2 g | ClC1=C(C=CC(=C1)Cl)C=CC1(OC1)C1(CC1)SCCC | C16H18Cl2OS
reactant | 1,2,4-triazole | 0.35 mol, 24 g | N1N=CN=C1 | C2H3N3
reactant | potassium tert.-butoxide | 0.02 mol, 2.7 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | trans-4-(2,4-dichlorophenyl)-2-(1-propylmercaptocyclopropyl)1-(1,2,4-triazol-1-yl)-but-3-en-2-ol | 12.1 g, 26% | ClC1=C(C=CC(=C1)Cl)/C=C/C(CN1N=CN=C1)(O)C1(CC1)SCCC | C18H21Cl2N3OS
